US05053514
To a mixture of ethanol (40 ml), water (20 ml) and conc. hydrochloric acid (60 ml), N-benzoyl-N-methyl-N-(4-methylsulfinylbenzyl)amine (4.1 g) is added and the mixture is heated with refluxing for 12 hours. After the reaction, the solvent is distilled off under reduced pressure, and to the resulting residue is added 20% aqueous sodium hydroxide solution, and the mixture is extracted with diethyl ether. The extract is washed successively with water and aqueous sodium chloride solution, and dried over magnesium sulfate. Diethyl ether is distilled off to give N-methyl-N(4-methylsulfinylbenzyl)amine (2.2 g).

reactant | ethanol | 40 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 60 ml | Cl | ClH
reactant | N-benzoyl-N-methyl-N-(4-methylsulfinylbenzyl)amine | 4.1 g | C(C1=CC=CC=C1)(=O)N(CC1=CC=C(C=C1)S(=O)C)C | C16H17NO2S
solvent | water | 20 ml | O | H2O
product | N-methyl-N(4-methylsulfinylbenzyl)amine | 2.2 g | CNCC1=CC=C(C=C1)S(=O)C | C9H13NOS
